US04544753
c. N-[3-(2-Chlorobenzoyl)-5-methylisoxazol-4-yl]bromoacetamide
Bromoacetylbromide (42 g, 210 mmoles) was added slowly to a mixture of (4-amino-5-methylisoxazol-3-yl)-2-chlorophenylmethanone of Example IIIb (24.8 g, 105 mmoles) in dichloromethane (300 ml) with 2N sodium carbonate (200 ml) and saturated sodium bicarbonate (500 ml) at 5° C. After stirring for 1 hour, the mixture was diluted with dichloromethane (400 ml) and water (400 ml). The organics were washed with water, saturated sodium chloride, dried (sodium sulfate) and evaporated to give 36 g of an oil. The residue (5.2 g) was flash chromatographed (25% ethyl acetate:hexane) to yield 4.5 g (85%) of an oil.

reactant | Bromoacetylbromide | 210 mmoles, 42 g | BrCC(=O)Br | C2H2Br2O
reactant | (4-amino-5-methylisoxazol-3-yl)-2-chlorophenylmethanone | NC=1C(=NOC1C)C(=O)C1=C(C=CC=C1)Cl | C11H9ClN2O2
reactant | sodium carbonate | 2N, 200 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | water | 400 ml | O | H2O
product | N-[3-(2-Chlorobenzoyl)-5-methylisoxazol-4-yl]bromoacetamide | 36 g | ClC1=C(C(=O)C2=NOC(=C2NC(CBr)=O)C)C=CC=C1 | C13H10BrClN2O3
